US07968570B2
M40 7-Methyl-5-(pyridin-4-ylmethoxy)-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one
To a solution of 5-Iodo-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one (100 mg, 0.22 mmol) in toluene (3 ml), pyridin-4-yl-methanol (26.4 mg, 0.24 mmol), copper(I) iodide (40 mg, 0.022 mmol), cesium carbonate (143 mg, 0.44 mmol), and 1,10-phenanthroline (7.9 mg, 0.044 mmol) were added. The resulting mixture was refluxed overnight, After cooling, the mixture was filtered through Celite® and concentrated. Column chromatography (80% EtOAc/Hexanes to 10% MeOH/EtOAc) provided the title compound as a yellow oil (44.3 mg, 47%). 1H NMR (300 MHz, CDCl3): δ 8.56 (br, 2H), 7.31-7.36 (m, 3H), 7.16-7.20 (m, 3H), 6.83 (s, 1H), 6.75 (s, 1H), 5.14 (s, 2H), 4.75 (s, 2H), 4.19 (s, 2H), 2.74 (s, 3H). GTPγS (0.0645).

reactant | 5-Iodo-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.22 mmol, 100 mg | IC=1C=C2CN(C(C2=C(C1)C)=O)CC1=CC=C(C=C1)OC(F)(F)F | C17H13F3INO2
reactant | pyridin-4-yl-methanol | 0.24 mmol, 26.4 mg | N1=CC=C(C=C1)CO | C6H7NO
reactant | cesium carbonate | 0.44 mmol, 143 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,10-phenanthroline | 0.044 mmol, 7.9 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) iodide | 0.022 mmol, 40 mg | [Cu]I
product | 7-Methyl-5-(pyridin-4-ylmethoxy)-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 44.3 mg, 47% | CC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)OCC1=CC=NC=C1 | C23H19F3N2O3
